US05556860
(c) Synthesis of 3-[2-(diethylamino)ethyl]-4-phenyl-2-oxo-1,2,3,4-tetrahydropyrido[2,3-d]pyrimidine
To a solution of 240 mg (0.54 mmol) of 3-[2(diethylamino)ethyl]-4-phenyl-4-trichloromethyl-2-oxo -1,2,3,4-tetrahydropyrido[2,3-d]pyrimidine in 10 mL of dimethylformamide was added 82 mg (1.26 mmol) of sodium borohydride at temperature of 5° C. to 15° C. After being stirred for 3 hours at ambient temperature, the reaction mixture was poured onto ice water, and the mixture was extracted with ethyl acetate. The organic layer separated was washed with water and then with brine, dried on anhydrous sodium sulfate and then concentrated in vacuo. The residue was purified by means of column chromatography (silica gel, 1:9 methanol:chloroform) to give 110 mg (0.34 mmol) of the title compound.

reactant | 3-[2(diethylamino)ethyl]-4-phenyl-4-trichloromethyl-2-oxo -1,2,3,4-tetrahydropyrido[2,3-d]pyrimidine | 0.54 mmol, 240 mg | C(C)N(CCN1C(NC2=C(C1(C(Cl)(Cl)Cl)C1=CC=CC=C1)C=CC=N2)=O)CC | C20H23Cl3N4O
reactant | sodium borohydride | 1.26 mmol, 82 mg | [BH4-].[Na+]
solvent | dimethylformamide | 10 mL | CN(C=O)C | C3H7NO
product | 3-[2-(diethylamino)ethyl]-4-phenyl-2-oxo-1,2,3,4-tetrahydropyrido[2,3-d]pyrimidine | 0.34 mmol, 110 mg | C(C)N(CCN1C(NC2=C(C1C1=CC=CC=C1)C=CC=N2)=O)CC | C19H24N4O
